### PR TITLE
feat: BitVec.toFin/ToInt BitVec.ushiftRight

### PR DESCRIPTION
**Pull request by bollu**
This PR adds theorems characterizing the value of the unsigned shift right of a bitvector in terms of its 2s complement interpretation as an integer.
Unsigned shift right by at least one bit makes the value of the bitvector less than or equal to `2^(w-1)`,
makes the interpretation of the bitvector `Int` and `Nat` agree.
In the case when `n = 0`, then the shift right value equals the integer interpretation.

```lean
theorem toInt_ushiftRight_eq_ite {x : BitVec w} {n : Nat} :
  (x >>> n).toInt = if n = 0 then x.toInt else x.toNat >>> n
```

```lean
theorem toFin_uShiftRight {x : BitVec w} {n : Nat} :
  (x >>> n).toFin = x.toFin / (Fin.ofNat' (2^w) (2^n))
```

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1316,6 +1316,61 @@ theorem toNat_ushiftRight_lt (x : BitVec w) (n : Nat) (hn : n ≤ w) :
...
+theorem ushiftRight_eq_zero {x : BitVec w} {n : Nat} (hn : w ≤ n) :
+    x >>> n = 0#w := by
+  simp [bv_toNat]
+  have : 2^w ≤ 2^n := Nat.pow_le_pow_of_le Nat.one_lt_two hn
+  rw [Nat.shiftRight_eq_div_pow, Nat.div_eq_of_lt (by omega)]
+
+
+/--
+Unsigned shift right by at least one bit makes the value of the bitvector less than or equal to `2^(w-1)`,
+makes the interpretation of the bitvector `Int` and `Nat` agree.
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1330]:
```suggestion
Unsigned shift right by at least one bit makes the interpretations of the bitvector as an `Int` or `Nat` agree, because it makes the value of the bitvector less than or equal to `2^(w-1)`.

```

Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:1330]: and below.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1316,6 +1316,61 @@ theorem toNat_ushiftRight_lt (x : BitVec w) (n : Nat) (hn : n ≤ w) :
...
+-/
+theorem toInt_ushiftRight_of_lt {x : BitVec w} {n : Nat} (hn : 0 < n) :
+    (x >>> n).toInt = x.toNat >>> n := by
+  rw [toInt_eq_toNat_cond]
+  simp only [toNat_ushiftRight, ite_eq_left_iff, Nat.not_lt]
+  intros h
+  by_cases hn: n ≤ w
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1337]:
```suggestion
  by_cases hn : n ≤ w
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -1316,6 +1316,61 @@ theorem toNat_ushiftRight_lt (x : BitVec w) (n : Nat) (hn : n ≤ w) :
     · apply hn
   · apply Nat.pow_pos (by decide)
 
+
+/-- Shifting right by `n`, which is larger than the bitwidth `w` produces `0. -/
+theorem ushiftRight_eq_zero {x : BitVec w} {n : Nat} (hn : w ≤ n) :
+    x >>> n = 0#w := by
+  simp [bv_toNat]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:1323]:
```suggestion
  simp [bv_toNat]
```
simp only

**Comment by kim-em** [comment]
Otherwise looking good.

**Comment by bollu** [comment]
awaiting-review

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by tobiasgrosser** [comment]
@bollu, you want to update the PR message to start with `This PR ...`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1316,6 +1316,61 @@ theorem toNat_ushiftRight_lt (x : BitVec w) (n : Nat) (hn : n ≤ w) :
...
+    omega
+
+/--
+Unsigned shift right by at least one bit makes the interpretations of the bitvector as an `Int` or `Nat` agree,
+because it makes the value of the bitvector less than or equal to `2^(w-1)`.
+In the case when `n = 0`, then the shift right value equals the integer interpretation.
+-/
+@[simp]
+theorem toInt_ushiftRight_eq_ite {x : BitVec w} {n : Nat} :
+    (x >>> n).toInt = if n = 0 then x.toInt else x.toNat >>> n := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1358]:
```suggestion
theorem toInt_ushiftRight {x : BitVec w} {n : Nat} :
    (x >>> n).toInt = if n = 0 then x.toInt else x.toNat >>> n := by
```

Should this not have a postfix? AFAIU, there is always a default `toInt_<opname>`. For consistency we may want to keep it this way.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -1316,6 +1316,61 @@ theorem toNat_ushiftRight_lt (x : BitVec w) (n : Nat) (hn : n ≤ w) :
...
+
+@[simp]
+theorem toFin_uShiftRight {x : BitVec w} {n : Nat} :
+    (x >>> n).toFin = x.toFin / (Fin.ofNat' (2^w) (2^n)) := by
+    apply Fin.eq_of_val_eq
+    by_cases hn : n < w
+    · simp [Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt (Nat.pow_lt_pow_of_lt Nat.one_lt_two hn)]
+    · simp only [Nat.not_lt] at hn
+      rw [ushiftRight_eq_zero (by omega)]
+      simp [Nat.dvd_iff_mod_eq_zero.mp (Nat.pow_dvd_pow 2 hn)]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1372]:
```suggestion
  apply Fin.eq_of_val_eq
  by_cases hn : n < w
  · simp [Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt (Nat.pow_lt_pow_of_lt Nat.one_lt_two hn)]
  · simp only [Nat.not_lt] at hn
    rw [ushiftRight_eq_zero (by omega)]
    simp [Nat.dvd_iff_mod_eq_zero.mp (Nat.pow_dvd_pow 2 hn)]
```
